US07544812B2
A solution of 2-methoxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester (0.040 g, 0.079 mmol) in ethanol (5 mL) was treated with aqueous 5 N NaOH (0.5 mL) and stirred at room temperature for 2 h. The solvent removed in vacuo. The resultant residue was acidified with aqueous 1 N HCl (10 mL) and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford 0.026 g (68%) 2-methoxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)- propionic acid. 1H NMR. MS (ES+) m/z calc'd for C24H28N2O5F3 (M+1) 481. Found m/z 481.

reactant | 2-methoxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | 0.079 mmol, 0.040 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)OC)=O | C26H31F3N2O5
reactant | NaOH | 5 N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-methoxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)- propionic acid | 0.026 g, 68% | COC(C(=O)O)CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C24H27F3N2O5
